US05852195
2-Mercapto-4-trifluoromethylpyridine
To 1.0 g of 2-chloro-4-trifluoromethylpyridine (Lancaster Chemical Co) is added 10 ml of absolute ethanol and 417 mg of thiourea. The reaction mixture is heated at reflux for 4 hours and 1.25 ml of a solution of 7.44 g KOH in 20 ml of water is added. The solution is heated at reflux for an additional 1 hour. The reaction solution is cooled and poured into 100 ml of a 0.1N NaOH solution. The resulting solution is extracted three times with 100 ml of methylene chloride and the resulting aqueous solution is acidified to pH 4 by addition of glacial acetic acid. The aqueous solution is extracted three times with 100 ml of methylene chloride and the organic solution is dried over anhydrous sodium sulfate. Filtration followed by evaporation to dryness gives 501 mg of a yellow crystalline solid.

reactant | 2-chloro-4-trifluoromethylpyridine | 1.0 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | thiourea | 417 mg | NC(=S)N | CH4N2S
reactant | KOH | 7.44 g | [OH-].[K+]
reactant | NaOH | 0.1N | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Mercapto-4-trifluoromethylpyridine | 501 mg | SC1=NC=CC(=C1)C(F)(F)F | C6H4F3NS
